US06054457
To a solution of 4-[2-[3-(tert-butoxycarbonyl)aminoprop-1-yl]oxybenzoyl]amino-3-methoxy-N-[2-(4-cyanophenylmethyl)oxy-4-methylphenyl]-N-methylbenzamide (360 mg) in xylene (8 ml) was added trimethyltin azide (218 mg) and the solution was stirred at 120° C. for 3 days. The solution was cooled to ambient temperature and 12N hydrochloric acid (10 ml) was added to the solution to decompose tin salt of the tetrazole compound and the excess reagent. Then the solution was adjusted to pH 7 with saturated aqueous sodium hydroxide at 0° C., and the solution was extracted with ethyl acetate (50 ml×3). The organic layer was washed with brine, and dried over magnesium sulfate. The solvent was evaporated to give a crude product. The crude product was purified by silica gel column chromatography (SiO2 30 g, 2-25% methanol in chloroform) to give 4-[2-(3-aminoprop-1-yl)oxybenzoyl]amino-3-methoxy-N-[2-[4-(tetrazol-5-yl)phenylmethyl]oxy-4-methylphenyl]-N-methylbenzamide (227 mg).

reactant | 4-[2-[3-(tert-butoxycarbonyl)aminoprop-1-yl]oxybenzoyl]amino-3-methoxy-N-[2-(4-cyanophenylmethyl)oxy-4-methylphenyl]-N-methylbenzamide | 360 mg | C(C)(C)(C)OC(=O)NCCCOC1=C(C(=O)NC2=C(C=C(C(=O)N(C)C3=C(C=C(C=C3)C)OCC3=CC=C(C=C3)C#N)C=C2)OC)C=CC=C1 | C39H42N4O7
reactant | trimethyltin azide | 218 mg | C[Sn](C)(C)N=[N+]=[N-]
reactant | hydrochloric acid | 12N, 10 ml | Cl | ClH
reactant | tin | [Sn] | Sn
reactant | tetrazole | N1N=NN=C1 | CH2N4
reactant | sodium hydroxide | [OH-].[Na+]
solvent | xylene | 8 ml | C=1(C(=CC=CC1)C)C | C8H10
product | 4-[2-(3-aminoprop-1-yl)oxybenzoyl]amino-3-methoxy-N-[2-[4-(tetrazol-5-yl)phenylmethyl]oxy-4-methylphenyl]-N-methylbenzamide | 227 mg | NCCCOC1=C(C(=O)NC2=C(C=C(C(=O)N(C)C3=C(C=C(C=C3)C)OCC3=CC=C(C=C3)C3=NN=NN3)C=C2)OC)C=CC=C1 | C34H35N7O5
